Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
right face, arm and hand tingling 
 
Major Surgical or Invasive Procedure:
NA

 
History of Present Illness:
The patient is a ___ with hx of PE in ___ when on OCPs,
influenza like illness 2 months ago, here with progressive
sensation of tingling in her right fingers, then arm, then face
over 3 days.

Around 2 months ago at the end of ___ she had around 1 
week
of fever, myalgias, chills, generalized fatigue. She had 
recently
traveled to ___ for several weeks and when she presented to
the ED her temperature was ___. She was prescribe both Tamiflu
and antibiotics for 10 days and improved. 

She was in her normal state of health until ___ afternoon, 
she
noticed that she began to gradually feel tingling in all the
fingers of her right hand. She thought it could be
musculoskeletal and did not pursue it further. ___ morning,
she awoke and she felt that in addition to her fingers, the
tingling involved her whole right arm - specifically whole
forearm and along the medial aspect of her upper arm only,
sparing the shoulder. This persisted throughout the day. When 
she
went to sleep that night, she felt some mild tingling in her
right lips and tongue. On ___, she awoke and felt that the
tingling was now involving her right lower face, tongue, and
cheek. To a much lesser degree, the forehead was involved. She
called her PCP who ordered ___. Today, she awoke with slightly
stronger symptoms and came to ED for evaluation. 

Today, she has also noticed a mild aching behind her right eye
lasting seconds intermittently with some lacrimation - No blurry
vision, pain with eye movement or other symptoms associated with
this. This pain is not positional. 

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies focal muscle weakness, numbness, parasthesia.
Denies loss of sensation. Denies bowel/bladder symptoms. Denies
difficulty with gait.

On general review of systems, the pt denies recent fever or
chills. Denies cough, shortness of breath.  Denies chest pain or
tightness.  Denies nausea, vomiting, diarrhea, or abdominal 
pain.
No dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
PE in ___ - thought to be from ___ - no further issues after
discontinuation. 

 
Social History:
___
Family History:
Brother - lifelong seizure disorder - unclear etiology
Father - lung cancer and stroke in ___

 
Physical Exam:
Vitals: 99.2F, HR 80, BP 118/74, RR 18, 98% on RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, No nuchal rigidity, Mildly decreased horizontal
ROM. R trapezius tenderness to palpation. 
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward with
several errors that she was able to correct. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt had some difficulty with low
frequency words but ___ is not her first language. Speech 
was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI including
convergence with end gaze fine nystagmus that did not fatigue
over time. VFF to confrontation. Pt has baseline difficulty with
near vision, when hear card is held at around 3 feet she has
improved visual acuity at around ___ and ___ bilaterally 
with
glasses on. Fundoscopic exam revealed no papilledema. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. 
  Delt Bic Tri WrE FFl FE ADM FDI IP Quad Ham TA ___
L  5    ___   ___  ___    5  5     5    5   5
R  5    ___   ___  ___    5  5     5    5   5

-Sensory: No deficits to light touch, pinprick, vibratory sense,
proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    2   1
R  3  2    3    2   1
Plantar response was complicated by withdrawal bilaterally. No
ankle clonus. She needed distraction to elicit patellars which
were then easily elicited. B/l pectoral jerks present. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

DISCHARGE EXAM
Vitals within normal limits 
Gen: awake, alert, comfortable, in no acute distress
HEENT: normocephalic atraumatic, no oropharyngeal lesions 
CV: warm, well perfused
Pulm: breathing non labored on room air
Extremities: no cyanosis/clubbing or edema

Neurologic:
-MS: Awake, alert, oriented to self, place, time and situation. 
Easily maintains attention to examiner. Recalls clear and 
coherent history. Speech fluent, no dysarthria.  No evidence 
of hemineglect. negative jaw jerk 
-CN: Gaze congjugate, ___, EOMI no nystagmus, face symmetric, 
facial sensation intact to LT and pinprick b/l. palate elevates 
symmetrically, tongue midline
-Motor: normal bulk and tone. No tremor or asterixis. R pronator 
drift
  Delt  Bic  Tri  ECR  FEx  FFl  IO  IP  Quad  Ham  TA   Gas  
___
L  5     5    5    5    5    5    5   5    5    5    5    5    5
R  5     5    5    5    5    5    5   5    5    5    5    5    5

-DTRs: 2 in b/l biceps, triceps, brachioradialis, Achilles and 
patellar
-Sensory: intact to LT, temperature, pinprick in bilateral UE 
and ___
-Coordination: finger nose finger intact, no dysmetria
-Gait: narrow based, normal stride length, no ataxia or sway 

 
Pertinent Results:
SERUM 
___ 02:35PM BLOOD WBC-5.7 RBC-4.40 Hgb-11.9 Hct-38.3 MCV-87 
MCH-27.0 MCHC-31.1* RDW-14.6 RDWSD-47.3* Plt ___
___ 02:35PM BLOOD Neuts-50.3 ___ Monos-9.1 Eos-1.8 
Baso-0.7 Im ___ AbsNeut-2.87 AbsLymp-2.16 AbsMono-0.52 
AbsEos-0.10 AbsBaso-0.04
___ 02:45PM BLOOD Glucose-94 UreaN-8 Creat-0.8 Na-143 K-4.0 
Cl-106 HCO3-28 AnGap-13
___ 02:45PM BLOOD Calcium-9.3 Phos-3.1 Mg-2.2
___ 09:50AM BLOOD VitB12-602
___ 02:35PM BLOOD %HbA1c-5.5 eAG-111
___ 09:50AM BLOOD Triglyc-49 HDL-86 CHOL/HD-1.9 LDLcalc-71
___ 09:50AM BLOOD TSH-1.1
___ 09:50AM BLOOD Free T4-1.0
___ 06:35AM BLOOD ANCA-NEGATIVE
___ 06:35AM BLOOD ___
___ 06:35AM BLOOD CRP-0.7
___ 06:35AM BLOOD HIV Ab-Negative

LP
MS profile: 5 bands detected (<4 is normal) 
___ 04:31PM CEREBROSPINAL FLUID (CSF) WBC-4 RBC-9* Polys-1 
___ ___ 04:31PM CEREBROSPINAL FLUID (CSF) TotProt-22 Glucose-62 
LD(LDH)-19
VZV neg
HSV neg
CMV neg

-MR spectroscopy (___): Focal signal abnormality within the 
left aspect of the pons adjacent to the facial colliculus, with 
elevated metabolites with minimally decreased choline to NAA 
ratio.  Given the lack of significant increased lactate, sequela 
of prior infarct is considered much less likely.  This may 
represent demyelinating process.  However, low grade glioma 
while also considered much less likely, given lack of mass 
effect, this is not entirely excluded and continued followup is 
recommended. 
  
-MRI brain w/ and w/o contrast (___):  Focus of diffusion 
abnormality within the left aspect of the pons with hyperintense 
DWI and ADC signal with corresponding hyperintensity on T2/FLAIR 
sequence. 
-MRI C-spine w/ and w/o contrast (___):  No evidence of 
abnormal spinal cord signal intensity or enhancement to suggest 
a demyelinating process. 2. Cervical kyphosis with moderate 
spinal canal stenosis at C4-C5 level, as detailed above. 

 
Brief Hospital Course:
___ presented for right face/arm numbness/tingling. 
These symptoms were notable but not debilitating enough to 
require medication.  She had no neurologic deficits on exam. She 
did not have any sensory loss on exam, notably with no loss of 
sensation to pinprick, light touch, temperature, and 
proprioception bilaterally. Her neurologic examination was 
normal.

She was found to have a left pontine lesion which was FLAIR 
hyperintense, non enhancing and non diffusion-restricting. To 
further clarify the differential, she had an MR spectroscopy 
which revealed a focal signal abnormality within the left aspect 
of the pons adjacent to the facial colliculus, with elevated 
metabolites with minimally decreased choline to NAA ratio.  
Given the lack of significant increased lactate, sequela of 
prior infarct is considered much less likely.  This may 
represent demyelinating process.  However, low grade glioma 
while also considered much less likely, given lack of mass 
effect, this is not entirely excluded and continued followup is 
recommended.

She was started on a baby aspirin for risk reduction, even 
though chance that lesion was stroke was much less likely. 

Overall, we believed the lesion was most likely demyelinating in 
origin. 

She will follow up with a repeat MRI in 6 weeks and then with us 
in clinic. No specific changes to her medications at this time. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Likely clinically isolated syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___, 
You presented to ___ because of your right face and arm 
numbness/tingling. We found an abnormality on your MRI which is 
in a location which matches well with your symptoms. We would 
like to monitor the lesion with repeated MRIs for now. Your 
first MRI should be in about 6 weeks. 

Please call us or return to the emergency room if you have any 
new symptoms of numbness, weakness or vision changes. 

It was our pleasure to meet you, 
___ neurology team 
 
Followup Instructions:
___